US06340759B1
(290-6) 4-(4-Ethylpiperazin-1-yl)-6-(4-methoxyphenyl)thieno[3,2-c]pyridin
A mixture of 4-chloro-6-(4-methoxyphenyl)thieno[3,2-c]pyridine (6.6 g) and N-ethylpiperazine (30 ml) was heated at 130° C. for 2 hr. The reaction mixture was evaporated, and to the resulting residue were added potassium carbonate and water. The resulting mixture was extracted with ethyl acetate, and the resulting organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was removed, and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give the title compound as a pale brown oil (5.2 g, yield; 61.5%).

reactant | 4-chloro-6-(4-methoxyphenyl)thieno[3,2-c]pyridine | 6.6 g | ClC1=NC(=CC2=C1C=CS2)C2=CC=C(C=C2)OC | C14H10ClNOS
reactant | N-ethylpiperazine | 30 ml | C(C)N1CCNCC1 | C6H14N2
product | 4-(4-Ethylpiperazin-1-yl)-6-(4-methoxyphenyl)thieno[3,2-c]pyridin | 5.2 g, yield; 61.5% | C(C)N1CCN(CC1)C1=NC(=CC2=C1C=CS2)C2=CC=C(C=C2)OC | C20H23N3OS
